US05968962
Step 1: (S)-(-)-N-[[3-[4-Ethenyl-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
A mixture of (S)(-)-N-[[3-[4-iodo-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl] acetamide (5.45 g), vinyltributyltin (5.48 g) and bis(triphenylphosphine)palladium(II) chloride (303 mg) in 1,4-dioxane (72 mL) under N2 is degassed, heated up to reflux, refluxed for seven hours, cooled to ambient temperature and stirred for 12 hours. The mixture is then diluted with ethyl acetate (40 mL) and water (50 mL) and the layers are separated. The aqueous phase is extracted with ethyl acetate (2×30 mL), and the combined organic phase is washed with saline (40 mL), dried over anhydrous magnesium sulfate, concentrated under reduced pressure and triturated with diethyl ether. The resultant precipitate is filtered to give the title compound, mp 165-166° C.

reactant | (S)(-)-N-[[3-[4-iodo-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl] acetamide | 5.45 g | IC1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C12H12FIN2O3
reactant | vinyltributyltin | 5.48 g | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 72 mL | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 303 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-(-)-N-[[3-[4-Ethenyl-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | C(=C)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C14H15FN2O3
